US08207370B2
Production of ethyl (2R,3R)-2-formylamino-3-hydroxyoctadecanoate
A dehydrated THF solution (0.5 ml) of triethylamine (131.7 mg, 1.30 mmol) and a dehydrated THF solution (0.5 ml) of formic acid (64.2 mg, 1.37 mmol) were added to a dehydrated THF solution (4.0 ml) of RuCl[(R,R)-TsDPEN](p-cymene) complex (19.6 mg, 0.03 mmol) and ethyl 2-formylamino-3-oxooctadecanoate (73.5 mg, 0.20 mmol) synthesized in the same method as Example 8. After the mixture was stirred for 3 days at room temperature, the reaction solvent was removed in reduced pressure. Water was added thereto and extraction with ethyl acetate was carried out three times. The organic layers were combined and dried with magnesium sulfate. After the solvent was removed in reduced pressure, the obtained crude product was purified by silica gel chromatography (Kieselgel 60 manufactured by Merck, hexane:ethyl acetate=1:2) to obtain the title compound (64.6 mg, yield: 87%). The product was analyzed by HPLC to find that anti-form:syn-form was 95:5 and the optical purity of the anti-form was 96% ee.

reactant | triethylamine | 1.30 mmol, 131.7 mg | C(C)N(CC)CC | C6H15N
reactant | formic acid | 1.37 mmol, 64.2 mg | C(=O)O | CH2O2
reactant | ethyl 2-formylamino-3-oxooctadecanoate | 0.20 mmol, 73.5 mg | C(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C21H39NO4
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | ethyl (2R,3R)-2-formylamino-3-hydroxyoctadecanoate | 64.6 mg, yield: 87% | C(=O)N[C@@H](C(=O)OCC)[C@@H](CCCCCCCCCCCCCCC)O | C21H41NO4
